US05112841
(2) 3-(4-Methoxyphenyl)-isoxazol-5-one
To 110 ml of acetic acid were added 16 g (72 mmol) of ethyl 4-methoxybenzoylacetate and 5 g (72 mmol) of hydroxyamine hydrochloride, followed by stirring at 100° C. for 2 hours. The resulting mixture was allowed to stand overnight at room temperature. The reaction mixture was concentrated under reduced pressure. Crystals thus precipitated were collected by filtration, washed with water and then dried under reduced pressure, whereby the title compound was obtained as pale yellow crystals.

reactant | ethyl 4-methoxybenzoylacetate | 72 mmol, 16 g | COC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O4
reactant | hydroxyamine hydrochloride | 72 mmol, 5 g | Cl.ON
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Methoxyphenyl)-isoxazol-5-one | COC1=CC=C(C=C1)C=1NOC(C1)=O | C10H9NO3
